US06002008
A mixture of 5.00 g (15.0 mmol) of 4-(3-dimethylaminophenylamino)-6-nitro-quinoline-3-carbonitrile, 1.20 g (37.5 mmol) of anhyd hydrazine and 0.5 g of 10% Pd/C in 250 mL of EtOH was refluxed under N2 for 1.3 hr. The reaction was filtered through Celite, the Celite was washed with EtOH and the filtrate and washes were combined. Solvent evaporation and drying in vacuo (50° C.) gave 6-amino-4-(3-dimethylaminophenylamino)quinoline-3-carbonitrile as a red brown solid: mass spectrum (electrospray, m/e): 303.9.

reactant | 4-(3-dimethylaminophenylamino)-6-nitro-quinoline-3-carbonitrile | 15.0 mmol, 5.00 g | CN(C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N)C | C18H15N5O2
reactant | hydrazine | 37.5 mmol, 1.20 g | NN | H4N2
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 6-amino-4-(3-dimethylaminophenylamino)quinoline-3-carbonitrile | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)N(C)C | C18H17N5
